US07105563B2
Alternatively, a mixture of 5-aminosulfonylindolin-2-one (1.0 g, 4.7 mmol), 2-ethoxycarbonylcarbonylpyrrole (2.5 g, 14.5 mmol) in ethanol (120 mL) was treated with triethylamine (1.0 mL, 7.2 mmol). The reaction mixture was refluxed for 24 hours. The reaction mixture was concentrated to approximately 20 mL, treated with additional triethylamine (0.2 mL, 1.44 mmol) and refluxed for 55 hoursr. The reaction was then cooled to ambient temperature and concentrated. Reverse phase HPLC using acetonitrile/water afforded 5-aminosulfonyl-3-[(pyrrol-2-yl)(ethoxycarbonyl)methylene]indolin-2-one; 1H NMR (400 MHz, DMSO-d6) δ 1.35 (t, 3H), 4.50 (q, 2H), 6.40 (s, 1H), 6.65 (s, 1H), 7.06 (d, 1H), 7.25(s, 2H), 7.48 (br s, 1H), 7.50 (s, 1H), 7.68 (d, 1H), 11.50 (s, 1H) ppm; (45 mg) and 5-aminosulfonyl-3-[(pyrrol-2-yl)(carboxy)methylene]indolin-2-one; 1H NMR (400 MHz, DMSO-d6) δ 6.40 (s, 1H), 6.65 (s, 1H), 7.06 (d, 1H), 7.25 (s, 2H), 7.48 (br s, 1H), 7.68 (d, 1H), 7.85 (s, 1H), 11.50 (s, 1H) ppm; (48 mg).

reactant | 5-aminosulfonylindolin-2-one | 4.7 mmol, 1.0 g | NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H8N2O3S
reactant | 2-ethoxycarbonylcarbonylpyrrole | 14.5 mmol, 2.5 g | C(C)OC(=O)C(=O)C=1NC=CC1 | C8H9NO3
reactant | triethylamine | 7.2 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 1.44 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 5-aminosulfonyl-3-[(pyrrol-2-yl)(ethoxycarbonyl)methylene]indolin-2-one | NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=C(C(=O)OCC)C=1NC=CC1 | C16H15N3O5S
